US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,2,4-oxadiazol-3-yl]methyl}-4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile
To a solution of 5-bromonicotinic acid (0.017 g, 0.082 mmol) in anhydrous DMF (2 mL) was added HATU (0.031 g, 0.082 mmol) and DIEA (0.011 g, 0.082 mmol) and stirred at rt. After 10 min, a solution of (1Z)-2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide (0.023 g, 0.077 mmol) in THF (1.5 mL) was added and stirring was continued at rt. After 30 min, the mixture was heated in a microwave at 150° C. for 20 min. Upon cooling, water (˜5 mL) was added to the stirring reaction mixture and the precipitated solids were collected by filtration and washed sequentially with water and hexanes. The product was further purified by flash chromatography (0-20% EtOAc-hexanes gradient), followed by crystallization from CH2Cl2-hexanes to afford the title compound as a white solid (0.011 g, 31% yield): MS (ES) m/z 464 and 466 (M+1 Br isotopes).

reactant | 5-bromonicotinic acid | 0.082 mmol, 0.017 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | HATU | 0.082 mmol, 0.031 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.082 mmol, 0.011 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (1Z)-2-[4-chloro-5-cyano-2-(difluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | 0.077 mmol, 0.023 g | ClC1=C2C=C(N(C2=CC=C1C#N)C/C(/NO)=N/[H])C(F)F | C12H9ClF2N4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | ˜5 mL | O | H2O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,2,4-oxadiazol-3-yl]methyl}-4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | 0.011 g, 31% yield | BrC=1C=C(C=NC1)C1=NC(=NO1)CN1C(=CC2=C(C(=CC=C12)C#N)Cl)C(F)F | C18H9BrClF2N5O
